*$
.SUBCKT BFP520/INF C B E
L1    1   10    0.47nH
L2    2   20    0.56nH
L3    3   30    0.23nH
C1   10   20    6.9fF
C2   20   30    134fF
C3   30   10    136fF
L4   10  B      0.53nH
L5   20  C      0.58nH
L6   30  E      0.05nH
Q1   2 1 3 BFP520
.ENDS
.MODEL BFP520 NPN(
+ IS =1.5E-17      NF =1            NR =1
+ ISE=2.5E-14      NE =2            ISC=2E-14
+ NC =2            BF =235          BR =1.5
+ VAF=25           VAR=2            IKF=0.4
+ IKR=0.01         RB =11           RBM=7.5
+ RE =0.6          RC =7.6          CJE=2.35E-13
+ VJE=0.958        MJE=0.335        CJC=9.3E-14
+ VJC=0.661        MJC=0.236        CJS=0
+ VJS=0.75         MJS=0.333        FC=0.5
+ XCJC=1           TF=1.7E-12       TR=5E-08
+ XTF=10           ITF=0.7          VTF=5
+ PTF=50           XTB=-0.25        XTI=0.035
+ EG=1.11)
***************************************************************
*$
