* source COLLPITS-OSCILLATOR-FINAL-DESIGN
.EXTERNAL OUTPUT Vout_sec
V_V9         N39003 0 5Vdc
X_Qi2         N39267 N39115 N39533 BFP520/INF
R_Rload         0 VOUT_SEC  100 TC=0,0 
V_V11         N39533 0 -5Vdc
R_Ri         N39115 N39003  6k TC=0,0 
L_Lp         N39119 N39003  1nH  
C_C1         N39267 N39119  3.3p  TC=0,0 
C_C2         0 N39267  3.3p  TC=0,0 
X_Qi1         N39115 N39115 N39533 BFP520/INF
X_Qm1         N39119 0 N39267 BFP520/INF
C_C3         N39119 VOUT_SEC  1m  TC=0,0 
