* source OUTPUT-IMPEDANCE
.EXTERNAL OUTPUT Vin
C_C2         0 N47723  3p  TC=0,0 
V_V9         N47525 0 5Vdc
C_C1         N47723 N47589  3p  TC=0,0 
X_Qi2         N47723 N47583 N47869 BFP520/INF
L_Lp         N47589 N47525  1nH  
X_Qi1         N47583 N47583 N47869 BFP520/INF
R_Ri         N47583 N47525  9.3k TC=0,0 
X_Qm1         N47589 0 N47723 BFP520/INF
V_V11         N47869 0 -5Vdc
C_C3         N47589 VIN  1m  TC=0,0 
V_V12         VIN 0 DC 0Vdc AC 1Vac 
