* source BFP520_CHARS
.EXTERNAL OUTPUT out
V_V1         N14447 0 DC 0Vdc AC 1Vac 
V_V2         N14648 0 5Vdc
X_Q1         OUT N14447 N14475 BFP520/INF
I_I1         N14475 0 DC 0Adc  
R_R1         OUT N14648  10k TC=0,0 
